US08420849B2
2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonylthiophen
A solution having methanol (121.20 g) added to a 11.2 mass % methanol solution (539.0 g, 217.08 mmol) of 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene was heated to 51° C., and a 30 mass % hydrogen peroxide solution (61.6 g, 2.5 equivalent amounts) was dropwise added over a period of 30 minutes, followed by stirring at from 50 to 52° C. for 5 hours. Then, the solution was cooled to 25 to 30° C., and then toluene, heptane and water were added, followed by liquid separation. Then, to the obtained organic layer, a 7 mass % sodium hydrogencarbonate aqueous solution, toluene and heptane were added, followed by liquid separation, and further, the obtained organic layer was washed with a 3 mass % salt solution. The solvent was distilled off under reduced pressure from the obtained organic layer to give a 26.6 mass % solution of the desired product. To the obtained solution, methanol was added to adjust the concentration to 9 mass %, and the solution was heated to from 55 to 60° C. to dissolve the formed solid. To this solution, 24.2 g of water was further dropwise added, followed by stirring for 1 hour. Then, the solution was cooled to −10° C. and stirred for 1 hour. The formed crystals were subjected filtration to give the desired product as yellow crystals (44.2 g, yield: 73.9%).

reactant | methanol | 121.20 g | CO | CH4O
reactant | methanol | 217.08 mmol, 539.0 g | CO | CH4O
reactant | 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | C(C)(C)(C)C1=CC=C(C=C1)C1SCC(=C1O)C(=O)C | C16H20O2S
reactant | hydrogen peroxide | 61.6 g, 2.5 equivalent | OO | H2O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | heptane | CCCCCCC | C7H16
product | 2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonylthiophen | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
